US05059597
c) 7-Acetyl-1,2-dimethyl-3-oxa-2,7-diazabicyclo[3.3.0]octane
15.5 g (0.1 mol) of N-allyl-N-(2-oxopropyl)-acetamide are dissolved in 100 ml of dioxane, and 9 g of anhydrous sodium acetate and 9 g (0.108 mol) of N-methylhydroxylamine hydrochloride in 10 ml of water are added. The mixture is heated under reflux overnight and cooled and the salts are filtered off with suction and washed with dioxane. The filtrate is concentrated, the residue is taken up in 100 ml of water and K2CO3 is added. The mixture is extracted with CHCl3, the extract is dried over K2CO3 and concentrated and the residue is distilled.

reactant | N-allyl-N-(2-oxopropyl)-acetamide | 0.1 mol, 15.5 g | C(C=C)N(C(C)=O)CC(C)=O | C8H13NO2
reactant | sodium acetate | 9 g | C(C)(=O)[O-].[Na+]
reactant | N-methylhydroxylamine hydrochloride | 0.108 mol, 9 g | Cl.CNO
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | water | 10 ml | O | H2O
product | 7-Acetyl-1,2-dimethyl-3-oxa-2,7-diazabicyclo[3.3.0]octane | C(C)(=O)N1CC2CON(C2(C1)C)C | C9H16N2O2
